US09388198B2
A.2.2.2. Synthesis of (1-(6-chloropyridin-3-yl)cyclohexyl)methanamine
A soln. of 1-(6-chloropyridin-3-yl)cyclohexanecarbonitrile (20.1 mmol) in THF (88 mL) was added dropwised to a solution BH3 in THF (60.2 mmol, 1 M). After heating to reflux for 1 h, the reaction mixture was cooled in an ice bath before aq. 2 M HCl (120 mL) was slowly added. The mixture was then heated to reflux for another 20 min. After cooling to RT, the mixture was washed with DCM, then, it was basified with aq. 1 M NaOH and extracted with DCM. The comb. org. layers were dried over MgSO4 and conc. in vacuo.

reactant | 1-(6-chloropyridin-3-yl)cyclohexanecarbonitrile | 20.1 mmol | ClC1=CC=C(C=N1)C1(CCCCC1)C#N | C12H13ClN2
reactant | HCl | 2 M, 120 mL | Cl | ClH
solvent | THF | 88 mL | C1CCOC1 | C4H8O
solvent | THF | 60.2 mmol, 1 M | C1CCOC1 | C4H8O
product | (1-(6-chloropyridin-3-yl)cyclohexyl)methanamine | ClC1=CC=C(C=N1)C1(CCCCC1)CN | C12H17ClN2
